US04883815
6.00 g (0.015 mol) of 2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamic acid and 2.57 g (0.016 mol) of 1,1'-carbonyldiimidazole are stirred at room temperature for 1.5 hours in 60 ml of tetrahydrofuran and 2.22 g (0.016 mol) of ethyl glycinate hydrochloride and 2.2 ml (0.016 mol) of triethylamine are added thereto. After stirring at room temperature for 1 hour, the solution is concentrated, extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Chromatography on silica gel with ethyl acetate-ethanol (9:1) and crystallization from methanol-ether gives ethyl N-[2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamoyl]glycinate as white crystals with melting point 94°-96°.

reactant | 2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamic acid | 0.015 mol, 6.00 g | C(C)(=O)NCCCC(=O)NCCCC(=O)C1=C(CCC(=O)O)C=C(C=C1)Cl | C19H25ClN2O5
reactant | 1,1'-carbonyldiimidazole | 0.016 mol, 2.57 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl glycinate hydrochloride | 0.016 mol, 2.22 g | Cl.NCC(=O)OCC
reactant | triethylamine | 0.016 mol, 2.2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | ethyl N-[2-[4-(4-acetamidobutyramido)butyryl]-5-chlorohydrocinnamoyl]glycinate | C(C)(=O)NCCCC(=O)NCCCC(=O)C1=C(CCC(=O)NCC(=O)OCC)C=C(C=C1)Cl | C23H32ClN3O6
